US06797718B2
A mixture of 7-[5-(4-fluorobenzenesulfonyl)pentyl]-5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridine (1.61 g, 3.51 mmol), trifluoroacetic acid (15 mL) and platinum (IV) oxide were added to a Parr vessel and agitated under hydrogen pressure (50 psi, 3.4×105 Pa) for two days. The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with methanol. The filtrate was concentrated under reduced pressure, and the black residue was stirred in concentrated hydrochloric acid (10 mL) for 1.5 hours. The solution was treated with 1 N aqueous sodium hydroxide (100 mL) and solid sodium hydroxide until the solution exhibited a pH of 14. The solution was extracted with chloroform (3×80 mL), and the combined extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 1.8 g of the crude product as a white foam. The crude product was purified by column chromatography on silica gel (eluting with 98:2 chloroform:methanol) and recrystallized from ethyl acetate:hexane. The solid was triturated with ethyl acetate and dried at 70° C. in a vacuum oven overnight to provide 0.57 g of 1-[5-(4-fluorobenzenesulfonyl)pentyl]-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine as a white powder, mp 130.0-132.0° C.

reactant | 7-[5-(4-fluorobenzenesulfonyl)pentyl]-5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridine | 3.51 mmol, 1.61 g | FC1=CC=C(C=C1)S(=O)(=O)CCCCCN1C(=NC=2C=3N(C(=C(C21)C)C)N=NN3)CCC | C22H27FN6O2S
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | platinum (IV) oxide | [Pt](=O)=O
product | 1-[5-(4-fluorobenzenesulfonyl)pentyl]-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine | 0.57 g | FC1=CC=C(C=C1)S(=O)(=O)CCCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)CCC | C22H29FN4O2S
